US07141559B2
1-Allyloxy-4-bromo-2-methyl-benzene
To a solution of 4-Bromo-2-methyl-phenol (2.0 g, 10.7 mmol) in THF (100 mL) was added solid Cs2CO3 (3.8 g, 11.7 mmol) and allyl bromide (1.9 mL, 21.4 mmol). The reaction mixture was stirred at room temperature for 20 hours. Upon completion, the solution was diluted with aqueous NH4Cl and extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), concentrated in vacuo and purified by column chromatography (0 to 100% ethyl acetate in hexanes) to provide 1.1 g (45%) of a white solid.

reactant | 4-Bromo-2-methyl-phenol | 10.7 mmol, 2.0 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | Cs2CO3 | 11.7 mmol, 3.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | allyl bromide | 21.4 mmol, 1.9 mL | C(C=C)Br | C3H5Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 1-Allyloxy-4-bromo-2-methyl-benzene | 1.1 g, 45% | C(C=C)OC1=C(C=C(C=C1)Br)C | C10H11BrO
